US09085540B2
A mixture of 5-(3-aminophenoxy)-3-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}-6-ethylpyrazine-2-carboxamide (840 mg) and 3 M hydrochloric acid (6 mL) was stirred at 80° C. for 5 hours, and then acetic acid (1.5 mL) was added thereto, followed by stirring at 80° C. overnight. The reaction mixture was left to be cooled, and then water (30 mL) was added thereto, followed by ice-cooling. The pH was adjusted to 9 by the addition of concentrated ammonia. The precipitated solid was collected by filtration and then dried under reduced pressure to obtain 5-(3-aminophenoxy)-6-ethyl-3-{[3-methyl-4-(4-oxopiperidin-1-yl)phenyl]amino}pyrazine-2-carboxamide (0.74 g) as a pale yellow solid.

reactant | 5-(3-aminophenoxy)-3-{[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-3-methylphenyl]amino}-6-ethylpyrazine-2-carboxamide | 840 mg | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC(=C(C=C2)N2CCC3(OCCO3)CC2)C)C=CC1 | C27H32N6O4
reactant | hydrochloric acid | 3 M, 6 mL | Cl | ClH
reactant | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
reactant | ammonia | N | H3N
solvent | water | 30 mL | O | H2O
product | 5-(3-aminophenoxy)-6-ethyl-3-{[3-methyl-4-(4-oxopiperidin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 0.74 g | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC(=C(C=C2)N2CCC(CC2)=O)C)C=CC1 | C25H28N6O3
